US07151105B2
Step 4: 2-Chloro-5-ethoxy-4-iodo-pyridine
6-Chloro-4-iodo-pyridin-3-ol (0.41 g, 1.62 mmol) was dissolved in anhydrous DMF (4 mL) and stirred at room temperature. Potassium carbonate (0.67 g, 4.9 mmol) and iodoethane (0.40 mL, 4.9 mmol) were added sequentially. The mixture was heated to 60° C. and maintained for 2 hours. The mixture was cooled to room temperature and filtered. The filtrate was diluted with diethyl ether (25 mL) and washed with 20% aqueous citric acid (25 mL). The aqueous was extracted with diethyl ether (2×20 mL). The combined organics were washed with brine, dried over Na2SO4, filtered and concentrated. The residue was triturated with hexane resulting in a tan solid (0.42 g, 91%). 1H NMR (400 MHz, CDCl3): δ 7.80 (s, 1H), 7.74 (s, 1H) 4.18 (q, J=7.1 Hz, 2H), 1.51 (t, J=7.1 Hz, 3H).

reactant | 6-Chloro-4-iodo-pyridin-3-ol | 1.62 mmol, 0.41 g | ClC1=CC(=C(C=N1)O)I | C5H3ClINO
reactant | Potassium carbonate | 4.9 mmol, 0.67 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodoethane | 4.9 mmol, 0.40 mL | ICC | C2H5I
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 2-Chloro-5-ethoxy-4-iodo-pyridine | ClC1=NC=C(C(=C1)I)OCC | C7H7ClINO
